US07414061B2
a) 5-Methoxymethyl-3-phenyl-4-[1-(4-trifluoromethyl-phenyl)-1-H-imidazol-4-yl]isoxazole
As described for Example 1f, 3-phenyl-4-(1H-imidazol-4-yl)-5-methoxymethyl-isoxazole (127.6 mg, 0.50 mmol) was converted, using 1-fluoro-4-trifluoromethyl-benzene instead of 1-(4-fluorophenyl)-ethanone, to the title compound (125 mg, 63%) which was obtained as an off-white solid. MS: m/e=400.1 [M+H]+.

reactant | 3-phenyl-4-(1H-imidazol-4-yl)-5-methoxymethyl-isoxazole | 0.50 mmol, 127.6 mg | C1(=CC=CC=C1)C1=NOC(=C1C=1N=CNC1)COC | C14H13N3O2
reactant | 1-fluoro-4-trifluoromethyl-benzene | FC1=CC=C(C=C1)C(F)(F)F | C7H4F4
product | 5-Methoxymethyl-3-phenyl-4-[1-(4-trifluoromethyl-phenyl)-1-H-imidazol-4-yl]isoxazole | 125 mg, 63% | COCC1=C(C(=NO1)C1=CC=CC=C1)C=1N=CN(C1)C1=CC=C(C=C1)C(F)(F)F | C21H16F3N3O2
